US07214507B2
Alloisolongifolene alcohol was prepared from alloisolongifolene via its corresponding aldehyde by SeO2, according to the protocol of Umbreit and Sharpless (1977). To a solution of 77 mg SeO2 and 68 mg salicylic acid in 30 mL CH2Cl2, 100 mg alloisolongifolene was added. Stirring at room temperature turned the reaction mixture yellow and a red solid precipitated in the first few hours. The reaction was monitored by GC-MS along with TLC and was stoppedby the addition of 60 mL demineralised water after 2.5 days. The reaction mixture was extracted with 45 mL ether, and the organic phase was subsequently washed with 30 mL brine. The red precipitate remained in the aqueous phase during extraction. After drying and evaporation, the organic phase yielded 214 mg of a crude solid that after flash chromatography on silica with pentane-CH2Cl2 (3:1) yielded 31 mg of alloisolongifolene aldehyde, a strong odorous compound (cedar-wood like). 1H NMR (200 MHz, C6D6) δ 0.71 (s, 3H, Me) δ 0.90 (s, 3H, Me), δ 0.93–2.04 (m, 13H), δ 5.42 (s, 1H, CH2═C), δ 5.73 (s, 1H, CH2═C), δ 9.35 (s, 1H, CH═O). 13C NMR (50 MHz, C6D6) δ 15.0 (q), δ 19.6 (q), δ 20.5 (t), δ 22.2 (t), δ 32.3 (t), δ 36.3 (t), δ 38.7 (t), δ 45.1 (t), δ 46.1 (s), δ 47.1 (s), δ 47.7 (s), δ 50.8 (d), δ 133.5 (t), δ 157.0 (s), δ 193.9 (d). EIMS (70 eV) m/z: 218 [M]+ (41), 203 (48), 189 (32), 185 (30), 175 (42), 161 (68), 147 (53), 145 (37), 133 (35), 119 (46), 107 (42), 105 (80), 95 (33), 93 (46), 91 (100), 81 (37), 79 (65), 77 (64), 55 (43), 53 (34), 41 (74), 39 (45). Fifteen milligrams of the aldehyde was added to a solution of 1.8 mg LiAlH4 in 0.5 mL ether. The grey suspension was stirred for 17.5 hours at room temperature and for an additional half our after the careful addition of one spatula Na2SO4.10H2O. One and a half millilitre of demineralised water was added to the mixture that was subsequently 3 times extracted with 1 mL of ether. The ether was passed through glasswool-plugged Pasteur pipette filled with silica and a spatula tip of MgSO4. The solvent was evaporated yielding 17 mg of alloisolongifolene alcohol. 1H NMR (200 MHz, C6D6) δ 0.77 (s, 3H, Me), δ 0.91 (s, 3H, Me), 0.96–1.63 (m, 13H), δ 3.96 (m, 2H), δ 4.95 (d, 1H, J=1.3 Hz) δ 5.30 (dd, 1H, J=3.26 Hz, 1.55 Hz). 13C NMR (50 MHz, C6D6) δ 15.1 (q),δ 19.7 (q), δ 20.7 (t), δ 22.3 (t), δ 32.4 (t), 37.5 (t), 38.7 (t), 44.0 (t), δ 46.1 (s), δ 47.8 (s), 6 48.2 (s), δ 51.6 (d), δ 63.4 (t), δ 107.9 (t), δ 155.9 (s). EIMS (70 eV) m/z: 220 [M]+ (5), 189 (35), 187 (36), 163 (30), 161 (56), 160 (37), 159 (30), 147 (36), 145 (38), 133 (32), 131 (37), 119 (44), 107 (61), (91), 95 (94), 93 (57), 91 (100), 81 (53), 79 (60), 77 (52), 67 (39), 55 (45), 41 (62).

reactant | alloisolongifolene | CC(=C)[C@@]12CCC[C@]3([C@@H]1CC[C@]3(C2)C)C | C15H24
reactant | salicylic acid | 68 mg | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | alloisolongifolene | 100 mg | CC(=C)[C@@]12CCC[C@]3([C@@H]1CC[C@]3(C2)C)C | C15H24
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Alloisolongifolene alcohol | C[C@@]12CCC3C1(CCC[C@]3(C2)C(=C)CO)C | C15H24O
